US05304560
A mixture of 1-(4-methanesulfonyloxybutyl)-2,4(1H,3H)-quinazolinedione (312 mg), 4-phenyl-1,2,3,6-tetrahydropyridine (200 mg) and triethylamine (303 mg) was refluxed for 1.5 hours. The reaction mixture was poured into ethyl acetate-water, extracted with ethyl acetate. Combined organic extract was washed in turn with water and brine, dried over magnesium sulfate, and evaporated. The crude residue was washed with hot methanol to give 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-2,4(1H,3H)-quinazolinedione (114 mg) as a powder.

reactant | 1-(4-methanesulfonyloxybutyl)-2,4(1H,3H)-quinazolinedione | 312 mg | CS(=O)(=O)OCCCCN1C(NC(C2=CC=CC=C12)=O)=O | C13H16N2O5S
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine | 200 mg | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
reactant | triethylamine | 303 mg | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-2,4(1H,3H)-quinazolinedione | 114 mg | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C(NC(C2=CC=CC=C12)=O)=O | C23H25N3O2
